US09284271B2
N-(2-(5-chloro-1H-Indol-3-yl)ethyl)biphenyl-2-carboxamide was prepared following Method A starting from 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride (0.100 g; 0.424 mmol), biphenyl-2-carboxylic acid (0.0943 g; 0.466 mmol), HATU (0.193 g; 0.508 mmol) and N,N-diisopropylethylamine (0.179 mL; 1.06 mmol) in DMF (5 mL). Flash chromatography on silica gel (eluent 1 to 10% ethyl acetate in dichloromethane) furnished 0.109 g (68%) of N-(2-(5-chloro-1H-Indol-3-yl)ethyl)biphenyl-2-carboxamide as a white solid.

reactant | 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride | 0.424 mmol, 0.100 g | Cl.ClC=1C=C2C(=CNC2=CC1)CCN
reactant | biphenyl-2-carboxylic acid | 0.466 mmol, 0.0943 g | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | HATU | 0.508 mmol, 0.193 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.06 mmol, 0.179 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2-(5-chloro-1H-Indol-3-yl)ethyl)biphenyl-2-carboxamide | 0.109 g, 68% | ClC=1C=C2C(=CNC2=CC1)CCNC(=O)C=1C(=CC=CC1)C1=CC=CC=C1 | C23H19ClN2O
